US05780466
A) 1-Benzyl-4-carboxy-4-phenylpiperidine
106 ml of a 30% NAOH solution is added to a suspension of 100 g of 4-carboxy-4-phenylpiperidine p-toluenesulfonate in 600 ml of water, then the thus obtained solution is cooled to 5° C., a solution of 47.6 g of bromide benzyl in 100 ml of acetone is added dropwise and left under stirring for 1 hour while the temperature being allowed to rise to RT. The acetone is evaporated under vacuum, and the pH of the remaining aqueous phase is brought to 9.5 by adding concentrated aqueous solution of HCl, then the pH is adjusted to 8.5 by adding a 2N HCl solution. The precipitate formed is wrung and washed with water and then with acetone to give 70 g of the expected compound, M.p.=286° C.

reactant | 4-carboxy-4-phenylpiperidine p-toluenesulfonate | 100 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(=O)(O)C1(CCNCC1)C1=CC=CC=C1
solvent | water | 600 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-Benzyl-4-carboxy-4-phenylpiperidine | 70 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=C1)C(=O)O | C19H21NO2
